US06518268B1
Preparation of 5-(2-(3,4-Dichlorophenylacetoxy)benzylidene)thiazolidine-2,4-dione
3,4-Dichlorophenylacetic acid was dissolved in SO2Cl2 followed by addition of a few drops of DMF. This resulting mixture was heated to 80 ° C for 15-30 min. followed by concentration of the reaction mixture under reduced pressure. The residue was dissolved in THF and slowly added to a solution of 5-(hydroxybenzylidene)thiazolidine-2,4-dione (1.5 eq.) and TEA (1.5 eq.) in THF. The resulting reaction was stirred for 1-2 h at which time the solid was filtered off and filtrate was concentrated under reduced pressure to yield light yellow solid. The solid was dissolved in EtOAc followed by washing with sat. aq. K2CO3. The organic phase was separated, and dried over Na2SO4 followed by concentration under reduced pressure to yield pure compound.

reactant | 3,4-Dichlorophenylacetic acid | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 5-(hydroxybenzylidene)thiazolidine-2,4-dione | 1.5 eq. | OC(C1=CC=CC=C1)=C1C(NC(S1)=O)=O | C10H7NO3S
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(2-(3,4-Dichlorophenylacetoxy)benzylidene)thiazolidine-2,4-dione | ClC=1C=C(C=CC1Cl)CC(=O)OC1=C(C=C2C(NC(S2)=O)=O)C=CC=C1 | C18H11Cl2NO4S
